US08623340B2
1200 g of 3-Methyl-5-phenyl-pentanol (Phenoxanol™, supplier: IFF) combined with 10.5 g Ru on aluminium oxide (Ru content 5 wt. %) were hydrogenated at a hydrogen pressure of 25 bar and at a temperature of 110° C. After 15 hours the reaction was finished. The catalyst was removed and the product distilled. 1204 g (content 99.7%) of 5-cyclohexyl-3-methyl-pentanol were obtained.

reactant | 3-Methyl-5-phenyl-pentanol | 1200 g | CC(CCO)CCC1=CC=CC=C1 | C12H18O
reactant | hydrogen | [H][H] | H2
product | 5-cyclohexyl-3-methyl-pentanol | 1204 g, 99.7% | C1(CCCCC1)CCC(CCO)C | C12H24O
